US06043248
4-t-Butyl-2-(1-hydroxyethyl)-pyridine (3.6 g, 20.1 mmole) is dissolved in 60 ml dichloromethane in a 200 ml one neck round bottom flask under nitrogen. The solution is cooled to 0° C., is treated with thionyl chloride (2.2 ml, 30 mmole) in 10 ml dichloromethane, and the reaction is stirred 1 h at 0° C. followed by 2 h at room temperature. The reaction is quenched with 1×75 ml saturated sodium bicarbonate, the layers are separated and the aqueous layer is extracted with 3×25 ml dichloromethane. The combined organics are dried over potassium carbonate and are concentrated in vacuo to give 3.9 g (98%) of 4-t-Butyl-2-(1-chloroethyl)-pyridine as a yellow oil.

reactant | 4-t-Butyl-2-(1-hydroxyethyl)-pyridine | 20.1 mmole, 3.6 g | C(C)(C)(C)C1=CC(=NC=C1)C(C)O | C11H17NO
reactant | thionyl chloride | 30 mmole, 2.2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-t-Butyl-2-(1-chloroethyl)-pyridine | 3.9 g, 98% | C(C)(C)(C)C1=CC(=NC=C1)C(C)Cl | C11H16ClN
